US07402595B2
2-(benzo[1,3]dioxol-5-ylmethyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid cyclohexylamide
The present compound was synthesized by a method similar to that in Example 249 and using 2-(benzo[1,3]dioxol-5-ylmethyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid (200 mg) and cyclohexylamine. Colorless crystals (130 mg).

reactant | 2-(benzo[1,3]dioxol-5-ylmethyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | 200 mg | O1COC2=C1C=CC(=C2)CN2C(C1=CC=C(C=C1C(=C2C(=O)O)C2=CC=CC=C2)Br)=O | C24H16BrNO5
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
product | 2-(benzo[1,3]dioxol-5-ylmethyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid cyclohexylamide | C1(CCCCC1)NC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC2=C(OCO2)C=C1 | C30H27BrN2O4
